US06479487B1
Scheme C, step c: 4-Amino-1-(4-chlorobenzyl)piperidine
Add 1-(4-chlorobenzyl)-4-piperidone oxime (1.87 mmol) to a solution of lithium aluminum hydride (2.5 mL of a 1M solution in tetrahydrofuran) and place under a nitrogen atmosphere. Heat at reflux for 2 hours, cool and pour into dilute aqueous sodium hydroxide. Extract with a mixture of ethyl ether/ethyl acetate (2×), wash with aqueous sodium chloride and dry (MgSO4). Evaporate the solvent in vacuo to give the title compound.

reactant | 1-(4-chlorobenzyl)-4-piperidone oxime | 1.87 mmol | ClC1=CC=C(CN2CCC(CC2)=NO)C=C1 | C12H15ClN2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Amino-1-(4-chlorobenzyl)piperidine | NC1CCN(CC1)CC1=CC=C(C=C1)Cl | C12H17ClN2
